US04542142
A mixture of 1.6 g of (1R,cis) 2,2-dimethyl-3[(Z) 3-oxo-3-benzyloxy-1-propenyl]-cyclopropane carboxylic acid, 10 ml of isoprene and 1 ml of thionyl chloride was stirred for 5 hours under a current of nitrogen and then was concentrated to obtain 2 g of (1R,cis) 2,2-dimethyl-3[(Z) 3-oxo-3-benzyloxy-1-propenyl]-cyclopropane-carboxylic acid chloride which was concentrated to obtain 2 g of (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-benzyloxy-1-propenyl]-cyclopropane-carboxylic acid chloride which was used as in the following step.

reactant | (1R,cis) 2,2-dimethyl-3[(Z) 3-oxo-3-benzyloxy-1-propenyl]-cyclopropane carboxylic acid | 1.6 g | CC1([C@@H]([C@@H]1\C=C/C(OCC1=CC=CC=C1)=O)C(=O)O)C | C16H18O4
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | isoprene | 10 ml | C=CC(C)=C | C5H8
product | (1R,cis) 2,2-dimethyl-3[(Z) 3-oxo-3-benzyloxy-1-propenyl]-cyclopropane-carboxylic acid chloride | 2 g | CC1([C@@H]([C@@H]1\C=C/C(OCC1=CC=CC=C1)=O)C(=O)Cl)C | C16H17ClO3
